US04859700
2-(2,3-Dihydro-2-oxo-3-phenyl-3-benzofuranyl)-1-[4-(3,4-methylenedioxybenzyl)piperazinyl]-1-oxoethane hydrochloride
This compound was prepared from 2-(2,3-dihydro-2-oxo-3-phenyl-3-benzofuranyl)acetyl chloride and 4-(3,4-methylenedioxybenzyl)piperazine according to the process described in Example 9.

reactant | 2-(2,3-dihydro-2-oxo-3-phenyl-3-benzofuranyl)acetyl chloride | O=C1OC2=C(C1(C1=CC=CC=C1)CC(=O)Cl)C=CC=C2 | C16H11ClO3
reactant | 4-(3,4-methylenedioxybenzyl)piperazine | C1OC=2C=C(CN3CCNCC3)C=CC2O1 | C12H16N2O2
product | 2-(2,3-Dihydro-2-oxo-3-phenyl-3-benzofuranyl)-1-[4-(3,4-methylenedioxybenzyl)piperazinyl]-1-oxoethane hydrochloride | Cl.O=C1OC2=C(C1(C1=CC=CC=C1)CC(=O)N1CCN(CC1)CC1=CC3=C(C=C1)OCO3)C=CC=C2 | InChI=1S/C28H26N2O5.ClH/c31-26(30-14-12-29(13-15-30)18-20-10-11-24-25(16-20)34-19-33-24)17-28(21-6-2-1-3-7-21)22-8-4-5-9-23(22)35-27(28)32;/h1-11,16H,12-15,17-19H2;1H
